US05493028
Ethyl 2-Chloro-2-cyano-5-oxopentanoate
To a suspension of NaOAc (0.492 g, 6 mmol) in 200 mL of EtOAc were added at 5° C., 31.0 g (210 mmol) of ethyl chlorocyanoacetate and acrolein (14 g, 250 mmol). The resulting mixture was stirred at 35° C. for 16 hours, filtered, concentrated and distilled to give 33 g of the title compound (77%).

reactant | ethyl chlorocyanoacetate | 210 mmol, 31.0 g | ClC(C(=O)OCC)C#N | C5H6ClNO2
reactant | acrolein | 250 mmol, 14 g | C(=O)C=C | C3H4O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | NaOAc | 6 mmol, 0.492 g | CC(=O)[O-].[Na+]
product | Ethyl 2-Chloro-2-cyano-5-oxopentanoate | 33 g, 77% | ClC(C(=O)OCC)(CCC=O)C#N | C8H10ClNO3
